US09193693B2
Step 2. 2,3-Bis(4-methoxyphenyl)-6-(1H-tetrazol-5-yl)quinoxaline
Into a 20-mL sealed tube, was placed a solution of 2,3-bis(4-methoxyphenyl)quinoxaline-6-carbonitrile (200 mg, 0.51 mmol, 1.00 equiv, 93%) in N,N-dimethylformamide (7 mL), NaN3 (500 mg, 7.69 mmol, 15.18 equiv), NH4Cl (147.9 mg, 2.79 mmol, 5.00 equiv). The resulting solution was stirred for 4 h at 100° C. in an oil bath. The reaction was then quenched by the addition of water. The resulting solution was extracted with 8×50 mL of dichloromethane/MeOH (10:1) and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 47 mg (23%) of 2,3-bis(4-methoxyphenyl)-6-(1H-tetrazol-5-yl)quinoxaline as a yellow solid.

reactant | 2,3-bis(4-methoxyphenyl)quinoxaline-6-carbonitrile | 0.51 mmol, 200 mg, 1.00 equiv | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)C#N | C23H17N3O2
reactant | NaN3 | 7.69 mmol, 500 mg, 15.18 equiv | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 2.79 mmol, 147.9 mg, 5.00 equiv | [NH4+].[Cl-]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 2,3-Bis(4-methoxyphenyl)-6-(1H-tetrazol-5-yl)quinoxaline | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)C1=NN=NN1 | C23H18N6O2
